US06384033B1
N-(1,1-Dimethylpropyl)-2,4-difluorobenzamide
To a solution of t-amylamine (0.35 ml, 3.0 mmol) and triethylamine (0.56 ml, 4.0 mmol) in methylene chloride (3 ml) was added a solution of 2,4-difluorobenzoyl chloride (0.36 g, 2.0 mmol) in methylene chloride (2 ml) with cooling in an ice-bath, and stirred for 1 hour. The reaction mixture was poured over saturated aqueous NaHCO3 and extracted with ethyl acetate. The extract was washed with saturated aqueous NaHCO3 and dried over MgSO4. The solvent was evaporated to give the title compound (0.47 g; >99%).

reactant | t-amylamine | 3.0 mmol, 0.35 ml | C(C)(C)(CC)N | C5H13N
reactant | triethylamine | 4.0 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluorobenzoyl chloride | 2.0 mmol, 0.36 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N-(1,1-Dimethylpropyl)-2,4-difluorobenzamide | 0.47 g, >99% | CC(CC)(C)NC(C1=C(C=C(C=C1)F)F)=O | C12H15F2NO
